### PR TITLE
feat: prove that omega-regular languages are closed under complementation

### PR DESCRIPTION
**Pull request by ctchou**
This PR reaches a major milestone by proving that  omega-regular languages are closed under complementation, using W. Thomas's presentation of R. Büchi's original proof.  Most of the groundwork has been laid in previous PRs and the only nontrivial theorem proved in this PR is `buchiFamily_cover` in BuchiCongruence.lean, which uses the Ramsey theorem for infinite graphs.

### CODE REVIEW

**Comment by ctchou** [comment]
Rebase on the current main.

File: Cslib/Foundations/Data/OmegaSequence/InfOcc.lean [hunk 1]
```diff
@@ -77,6 +77,15 @@ theorem frequently_in_strictMono {p : ℕ → Prop} {f : ℕ → ℕ}
...
     grind [segment_lower_bound' hm h0, segment_upper_bound' hm h0]
 
+open Nat in
+/-- Every infinite subset of ℕ is the range of a strictly monotonic function from ℕ to ℕ. -/
+theorem strictMono_of_infinite {ns : Set ℕ} (h : ns.Infinite) :
+    ∃ φ : ℕ → ℕ, StrictMono φ ∧ range φ = ns := by
+  use (nth (· ∈ ns))
+  split_ands
+  · exact nth_strictMono h
+  · exact range_nth_of_infinite h
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/InfOcc.lean]: These are short enough that

```suggestion
    ∃ φ : ℕ → ℕ, StrictMono φ ∧ range φ = ns :=
  ⟨nth (· ∈ ns), nth_strictMono h, range_nth_of_infinite h⟩
```
seems nicer.

File: Cslib/Computability/Languages/Congruences/BuchiCongruence.lean [hunk 2]
```diff
@@ -106,6 +105,38 @@ theorem mem_buchiFamily [Inhabited Symbol]
...
+  split_ands
+  · have := h_mono.monotone (show 0 ≤ k by grind)
+    have := h_mono.monotone (show 0 ≤ k + 1 by grind)
+    simp [ys, g, extract_drop, show f 0 + (f k - f 0) = f k by grind,
+      show f 0 + (f (k + 1) - f 0) = f (k + 1) by grind]
+    have := h_mono (show k < k + 1 by grind)
+    specialize h_color ({f k, f (k + 1)} : Finset ℕ) (by grind) (by grind)
+    simp [color] at h_color
+    grind
+  · grind [h_mono' (show k < k + 1 by grind)]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Congruences/BuchiCongruence.lean]: Here's what I came up with to minimize calls to `grind` and maybe be a bit easier to follow:
```suggestion
open Finset in
/-- `na.buchiFamily` is a cover if `na` has only finitely many states.
This theorem uses the Ramsey theorem for infinite graphs and does not depend on any details
of `na.BuchiCongruence` other than that it is of finite index. -/
theorem buchiFamily_cover [Inhabited Symbol] [Finite State] :
    ⨆ i, na.buchiFamily i = ⊤ := by
  ext xs
  have : Finite (Quotient na.BuchiCongruence.eq) := buchiCongruence_fin_index
  let color (t : Finset ℕ) : Quotient na.BuchiCongruence.eq :=
    if h : t.Nonempty then ⟦ xs.extract (t.min' h) (t.max' h) ⟧ else ⟦ [] ⟧
  obtain ⟨b, ns, h_ns, h_color⟩ := infinite_graph_ramsey color
  obtain ⟨f, h_mono, rfl⟩ := strictMono_of_infinite h_ns
  simp only [ωLanguage.mem_iSup, Prod.exists, ωLanguage.mem_top, iff_true]
  use ⟦ xs.take (f 0) ⟧, b
  apply mem_buchiFamily.mpr
  use xs.take (f 0), xs.drop (f 0) |>.toSegs (f · - f 0)
  split_ands
  · grind
  · intro k
    specialize h_color {f k, f (k + 1)}
    have := @h_mono 0 k
    have := @h_mono k (k + 1)
    grind [extract_drop, Finset.insert_nonempty, Finset.singleton_nonempty, min'_insert,
      min'_singleton, max'_insert, max'_singleton, toSegs_def, Language.mem_sub_one]
  · grind [Nat.base_zero_strictMono h_mono]
```
(That one call to `grind` is a little long, but it's just theorems you were already using with `simp`)

File: Cslib/Foundations/Data/OmegaSequence/InfOcc.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/InfOcc.lean]: Fixed.

File: Cslib/Computability/Languages/Congruences/BuchiCongruence.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Congruences/BuchiCongruence.lean]: Fixed.

What is the `@` feature you used above?

Comment (chenson2018) [reply Cslib/Computability/Languages/Congruences/BuchiCongruence.lean]: It lets you pass all implicit paramaters explicitly.

Comment (ctchou) [reply Cslib/Computability/Languages/Congruences/BuchiCongruence.lean]: Ah, I actually knew it.  I got confused because my old code supplied the `Prop` argument but your code did not.

**Comment by ctchou** [comment]
Just pinging @fmontesi
